US04734419
A mixture of 7-chloro-2H-3,1-benzoxazine-2,4(1H)dione (18.4 g) and 4-bromo-2-fluorobenzylamine (26 g) in tetrahydrofuran (200 ml) was refluxed for 15 minutes. After cooling, tetrahydrofuran was evaporated to give a residue. Recrystallization from isopropyl ether gave 2-amino-N-(4-bromo-2-fluorobenzyl)-4-chlorobenzamide (26.6 g).

reactant | 7-chloro-2H-3,1-benzoxazine-2,4(1H)dione | 18.4 g | ClC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4ClNO3
reactant | 4-bromo-2-fluorobenzylamine | 26 g | BrC1=CC(=C(CN)C=C1)F | C7H7BrFN
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-amino-N-(4-bromo-2-fluorobenzyl)-4-chlorobenzamide | 26.6 g | NC1=C(C(=O)NCC2=C(C=C(C=C2)Br)F)C=CC(=C1)Cl | C14H11BrClFN2O
